US07122705B2
A 1-L flask equipped with a mechanical stirrer, nitrogen inlet, thermometer, and condenser, were charged with isovanillin (91.2 g, 0.60 mol, 1.0 equivalent) and THF (250 mL), followed by addition of Bu4NBr (19.3 g, 0.06 mol, 10 mol%, 0.10 eq.) and anhydrous K2CO3 (124 g, 0.90 mol, 1.5 eq.). The reaction mixture was stirred vigorously and heated to reflux (about 65 to about 75° C.). Cyclopentyl bromide (89.4 g, 0.60 mol, 1.0 eq.) was added dropwise and the mixture was stirred at refluxed for 6 hours. A second portion of cyclopentyl bromide (44.7 g, 0.30 mol, 0.5 eq.) was added dropwise and stirring and heating was continued for 6 hours. The reaction solution was monitored by TLC for completion, thereby cooled to room temperature, and any remaining solids removed by filtration. The filter pad was washed with THF (2×90 mL) to remove remaining 3-cyclopentyloxy-5-methoxybenzaldehyde on the filter pad. 3-Cyclopentyloxy-5-methoxybenzaldehyde was thereby isolated in THF and its purity verified using HPLC.

reactant | isovanillin | 0.60 mol, 91.2 g, 1.0 equivalent | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | K2CO3 | 0.90 mol, 124 g, 1.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | Cyclopentyl bromide | 0.60 mol, 89.4 g, 1.0 eq. | C1(CCCC1)Br | C5H9Br
reactant | cyclopentyl bromide | 0.30 mol, 44.7 g, 0.5 eq. | C1(CCCC1)Br | C5H9Br
catalyst | Bu4NBr | 0.06 mol, 19.3 g, 0.10 eq. | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 3-Cyclopentyloxy-5-methoxybenzaldehyde | C1(CCCC1)OC=1C=C(C=O)C=C(C1)OC | C13H16O3
